US09289430B2
3-(3-(4-chloro-2-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-ylcarbamoyl)-phenylcarbamoyl)benzylthio)propanoic acid
Into a 50-mL round bottom flask, was placed a solution of tert-butyl 3-(3-(4-chloro-2-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-ylcarbamoyl)phenylcarbamoyl)benzylthio)propanoate (150 mg, 0.24 mmol, 1.00 equiv) in dichloromethane (4 mL), and 2,2,2-trifluoroacetic acid (2 mL). The resulting solution was stirred for 2 h at room temperature. The resulting mixture was concentrated under vacuum. The crude product (100 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 36.3 mg (27%) of a white solid. 1H-NMR (300 MHz, DMSO, ppm): δ 11.82(s, 1H), 11.48(s, 1H), 8.52(d, J=8.70 Hz, 1H), 8.41(s, 1H), 8.11(s, 1H), 7.92(s, 1H), 7.79(m, 1H), 7.67(m, 1H), 7.57(m, 4H), 7.26(m, 1H), 6.92(d, J=1.8 Hz, 1H), 3.86(s, 2H), 2.60(m, 2H), 2.29(m, 6H). MS (ES, m/z): 563 [M+H]+.

reactant | tert-butyl 3-(3-(4-chloro-2-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-ylcarbamoyl)phenylcarbamoyl)benzylthio)propanoate | 0.24 mmol, 150 mg, 1.00 equiv | ClC1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)OC(C)(C)C)C=CC1)C(NC1=NN(C=C1)C1=CC(=C(C=C1)C)C)=O | C33H35ClN4O4S
reactant | 2,2,2-trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 3-(3-(4-chloro-2-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-ylcarbamoyl)-phenylcarbamoyl)benzylthio)propanoic acid | 36.3 mg, 27% | ClC1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)O)C=CC1)C(NC1=NN(C=C1)C1=CC(=C(C=C1)C)C)=O | C29H27ClN4O4S
